US07314888B1
In 2 ml of ethanol is dissolved 0.18 g of ethyl 5-(2,4-diisobutoxybenzoyl)-1-isobutyl-1H-indole-2-carboxylate. After adding 0.3 ml of 5 mol/L sodium hydroxide, the mixture thus obtained is stirred at ambient temperature for one hour. Water and chloroform are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1). Thus, 0.15 g of 5-(2,4-diisobutoxybenzoyl)-1-isobutyl-1H-indole-2-carboxylic acid is obtained as a white solid product.

reactant | ethyl 5-(2,4-diisobutoxybenzoyl)-1-isobutyl-1H-indole-2-carboxylate | 0.18 g | C(C(C)C)OC1=C(C(=O)C=2C=C3C=C(N(C3=CC2)CC(C)C)C(=O)OCC)C=CC(=C1)OCC(C)C | C30H39NO5
reactant | sodium hydroxide | 5 mol/L, 0.3 ml | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(2,4-diisobutoxybenzoyl)-1-isobutyl-1H-indole-2-carboxylic acid | 0.15 g | C(C(C)C)OC1=C(C(=O)C=2C=C3C=C(N(C3=CC2)CC(C)C)C(=O)O)C=CC(=C1)OCC(C)C | C28H35NO5
